US08076345B2
A) 2-Methylpyrimidine-5-carbaldehyde
To a stirred slurry of acetamidine hydrochloride (19.4 g, 0.20 mol) and vinamidinium salt (48.91 g, 0.183 mol) in acetonitrile (240 mL) was added a solution of 40% wt. NaOH in water (27.4 g, 0.274 mol) over a 30 minutes period. After the addition was complete, the resulting reaction mixture was stirred at room temperature overnight. The mixture was concentrated in vacuo and diluted with water (250 mL) and extracted with EtOAc (3×250 mL). The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography (0-100% EtOAc/hexanes) to afford a white solid.

reactant | acetamidine hydrochloride | 0.20 mol, 19.4 g | Cl.C(C)(=N)N
reactant | vinamidinium | 0.183 mol, 48.91 g | C[NH+](C)CC(=C[NH+](C)C)CN(C)C
reactant | NaOH | [OH-].[Na+]
reactant | water | 0.274 mol, 27.4 g | O | H2O
solvent | acetonitrile | 240 mL | C(C)#N | C2H3N
product | 2-Methylpyrimidine-5-carbaldehyde | CC1=NC=C(C=N1)C=O | C6H6N2O
